US07659297B2
(rac.) 4-(4-Chloro-3fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanal
1.00 g (2.59 mmol) of (rac.) 4-(4-chloro-3-fluoro-2-methoxyphenyl)-4-methyl-2-(trifluoromethyl)-2-hydroxy-pentanoic acid ethyl ester is dissolved in 9.5 ml of diethyl ether and mixed in portions at 0° C. with 73.7 mg (1.94 mmol) of LiAlH4. Stirring is continued at 0° C., and a TLC is taken every quarter hour. After 40 minutes of stirring at 0° C., the reaction mixture is mixed drop by drop with 2.4 ml of saturated NaHCO3 solution while being cooled in an ice bath. It is stirred for 30 minutes while being cooled in an ice bath, and it is stirred vigorously overnight at room temperature. The precipitate is suctioned off, washed with ethyl acetate, and the filtrate is concentrated by evaporation in a rotary evaporator. After the residue is chromatographed on a Flashmaster, 560.2 mg is obtained. In this case, this is a 3:2 mixture of the aldehyde with the starting ester.

reactant | (rac.) 4-(4-chloro-3-fluoro-2-methoxyphenyl)-4-methyl-2-(trifluoromethyl)-2-hydroxy-pentanoic acid ethyl ester | 2.59 mmol, 1.00 g | C(C)OC(C(CC(C)(C)C1=C(C(=C(C=C1)Cl)F)OC)(O)C(F)(F)F)=O | C16H19ClF4O4
reactant | LiAlH4 | 1.94 mmol, 73.7 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | NaHCO3 | 2.4 ml | C(=O)(O)[O-].[Na+]
solvent | diethyl ether | 9.5 ml | C(C)OCC | C4H10O
product | (rac.) 4-(4-Chloro-3fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanal | ClC1=C(C(=C(C=C1)C(CC(C=O)(C(F)(F)F)O)(C)C)OC)F | C14H15ClF4O3
